US08084644B2
p-Toluidine (2.46 g) was dissolved to acetonitrile (20 ml), then acetonitrile (3 ml) solution of 3-(phenylthio)acryloyl chloride (2.0 g) was added dropwise thereto under ice-cooling. The mixture was stirred at room temperature for 1.5 hours. The reaction mixture was poured into 50 ml of ice-water, and adjusted to pH 4 with concentrated hydrochloric acid. The precipitated crystal was collected by filtration, washed with water and dried to obtain N-(4-methylphenyl)-3-(phenylthio)acrylamide (2.62 g) as light brown crystal.

reactant | p-Toluidine | 2.46 g | NC1=CC=C(C=C1)C | C7H9N
reactant | 3-(phenylthio)acryloyl chloride | 2.0 g | C1(=CC=CC=C1)SC=CC(=O)Cl | C9H7ClOS
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-(4-methylphenyl)-3-(phenylthio)acrylamide | 2.62 g | CC1=CC=C(C=C1)NC(C=CSC1=CC=CC=C1)=O | C16H15NOS
